US06897224B2
A solution of 15.04 g of 2-diethylphosphono-2-ethoxyacetic acid-ethyl ester in 50 ml of tetrahydrofuran is mixed while being cooled with ice within 20 minutes with 30 ml of a 2 M solution of lithium diisopropylamide in tetrahydrofuran-heptane-toluene, and it is stirred for 15 minutes at 0° C. Within 30 minutes, a solution of 10.2 g of 2-(4-chlorophenyl)-2-methylpropanal in 50 ml of tetrahydrofuran is added in drops thereto at 0° C. After 20 hours at room temperature, 2N sulfuric acid is added, it is extracted with ethyl acetate, dried (Na2SO4) and concentrated by evaporation. The crude product is saponified with 200 ml of 2 M sodium hydroxide solution/400 ml of ethanol. 13.8 g of acid, which is refluxed for 3 hours with 300 ml of 2N sulfuric acid and 100 ml of glacial acetic acid while being stirred vigorously, is obtained. After extraction with ethyl acetate and washing with water, 10.9 g of 4-(4-chlorophenyl)-4-methyl-2-oxo-valeric acid is obtained as a red oil.

reactant | 2-diethylphosphono-2-ethoxyacetic acid-ethyl ester | 15.04 g | C(C)OC(C(OCC)P(=O)(OCC)OCC)=O | C10H21O6P
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(4-chlorophenyl)-2-methylpropanal | 10.2 g | ClC1=CC=C(C=C1)C(C=O)(C)C | C10H11ClO
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane toluene | O1CCCC1.CCCCCCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-4-methyl-2-oxo-valeric acid | 10.9 g | ClC1=CC=C(C=C1)C(CC(C(=O)O)=O)(C)C | C12H13ClO3
